US04408074
A process for preparing 1-(3,5-dimethoxy-4-hydroxy phenyl)-2-(N-methylamino) ethanol hydrochloride is described by reacting 2,6-dimethoxyphenol with anhydrous chloral in the presence of a catalyst, hydrolyzing 1-(3,5-dimethoxy-4-hydroxyphenyl)2,2,2-trichloro ethanol and subsequently isolating the 3,5-dimethoxy-4-hydroxyphenyl glyoxal thus obtained; finally, this compound, in the form of the bisulfite, is directly converted to the desired product by amination with methylamine in the presence of hydrogen with a hydrogenation catalyst and the final product is converted into the hydrochloride.

reactant | 1-(3,5-dimethoxy-4-hydroxy phenyl)-2-(N-methylamino) ethanol hydrochloride | Cl.COC=1C=C(C=C(C1O)OC)C(CNC)O
reactant | 2,6-dimethoxyphenol | COC1=C(C(=CC=C1)OC)O | C8H10O3
reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | 1-(3,5-dimethoxy-4-hydroxyphenyl)2,2,2-trichloro ethanol | COC=1C=C(C=C(C1O)OC)C(C(Cl)(Cl)Cl)O | C10H11Cl3O4
product | 3,5-dimethoxy-4-hydroxyphenyl glyoxal | COC=1C=C(C=C(C1O)OC)C(=O)C=O | C10H10O5
